US07619092B2
To 1.74 g of magnesium and 40 ml of tetrahydrofuran was added trace of iodine, and under nitrogen atmosphere and at room temperature, 10.4 g of 2-bromo-5-fluorotoluene was added dropwise spending 40 minutes. The reaction mixture was refluxed under heating for an hour, to prepare Grignard reagent solution. To the prepared Grignard reagent solution was added dropwise 5.46 g of 4-methoxypyridine spending 20 minutes, at −40° C. under nitrogen atmosphere. After completion of dropwise addition, the mixture was stirred at a temperature from −40° C. to −30° C. for 30 minutes. Subsequently, the reaction mixture was cooled down to −40° C., and while keeping the temperature at −40° C. or below, added dropwise thereto was a solution of 12 g of di-tert-butyldicarbonate in 20 ml of tetrahydrofuran. After completion of dropwise addition, the temperature of the reaction mixture was slowly raised. At −15° C., ice was added thereto and the mixture was stirred for 20 minutes. Further added thereto was an aqueous citric acid solution and the mixture was stirred at room temperature for 40 minutes. Tetrahydrofuran was removed by distillation and to the resultant residue was added ethyl acetate, and extracted twice. The combined organic layers were washed with saturated brine, dried and concentrated under reduced pressure. To the residue was added diisopropyl ether, and the obtained crystals were collected by filtration with diisopropyl ether, to give 11.9 g of 1-tert-butoxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine as shown in Table 134 below.

reactant | magnesium | 1.74 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromo-5-fluorotoluene | 10.4 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | 4-methoxypyridine | 5.46 g | COC1=CC=NC=C1 | C6H7NO
reactant | di-tert-butyldicarbonate | 12 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-2-(4-fluoro-2-methylphenyl)-4-oxo-3,4-dihydro-2H-pyridine | 11.9 g | C(C)(C)(C)OC(=O)N1C(CC(C=C1)=O)C1=C(C=C(C=C1)F)C | C17H20FNO3
